US04198425
Using 0.68 g of 7-(p-benzyloxyphenyl)-3-hepten-2-one, 0.37 ml of ethyl bromoacetate and 0.19 g of zinc, the reaction and the purification of the product were carried out according to the method described in Example 25 (a) affording 0.84 g of ethyl 3-hydroxy-3-methyl-8-(p-benzyloxyphenyl)-4-octenoate.

reactant | 7-(p-benzyloxyphenyl)-3-hepten-2-one | 0.68 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCC=CC(C)=O | C20H22O2
reactant | ethyl bromoacetate | 0.37 ml | BrCC(=O)OCC | C4H7BrO2
catalyst | zinc | 0.19 g | [Zn] | Zn
product | ethyl 3-hydroxy-3-methyl-8-(p-benzyloxyphenyl)-4-octenoate | 0.84 g | OC(CC(=O)OCC)(C=CCCCC1=CC=C(C=C1)OCC1=CC=CC=C1)C | C24H30O4
